US05284886
Preparation of Pentaerythritol Tetrakis (n-Hexadecylthiopropyl)ether
A 250 ml three-necked flask equipped with a magnetic stirrer, a condenser and a nitrogen inlet tube was first purged with nitrogen 107 grams of n-hexadecyl mercaptan (0.417 mole) was then charged and heated to 80° C. To the heated and stirred n-hexadecyl mercaptan, a solution of 0.2 gram of 2,2'-azobis(isobutyronitrile) in 29.64 grams (0.1 mole) of pure pentaerythritol tetraallyl ether was added dropwise over a 15-minute period. One-half hour after this addition was completed, 0.1 gram of 2,2'-azobis(isobutyronitrile) was added. Two more 0.1 gram additions of 2,2'-azobis-(isobutyronitrile) were made at half-hour intervals. After the last addition, the reaction was held at 80° C. for an additional hour. The crude product was recrystallized three times in 300 ml. of hexane yielding 57 grams of a white solid having a melting point of 55°-57° C. The elemental analysis found: C - 73.4%, H - 11.9%, S(total) - 10.0%, and S(mercapto) - 3 ppm. Calculated for C98H164S2 ; C - 73.12%, H-12.43%, S(total) - 9.64% and S(mercapto) - 4 ppm.

reactant | n-hexadecyl mercaptan | 0.417 mole | C(CCCCCCCCCCCCCCC)S | C16H34S
reactant | 2,2'-azobis(isobutyronitrile) | 0.2 gram | N(=NC(C#N)(C)C)C(C#N)(C)C | C8H12N4
reactant | pentaerythritol tetraallyl ether | 0.1 mole, 29.64 grams | C(C=C)OCC(COCC=C)(COCC=C)COCC=C | C17H28O4
reactant | 2,2'-azobis(isobutyronitrile) | 0.1 gram | N(=NC(C#N)(C)C)C(C#N)(C)C | C8H12N4
product | Pentaerythritol Tetrakis (n-Hexadecylthiopropyl)ether | C(CCCCCCCCCCCCCCC)SCCCOCC(COCCCSCCCCCCCCCCCCCCCC)(COCCCSCCCCCCCCCCCCCCCC)COCCCSCCCCCCCCCCCCCCCC | C81H164O4S4
